US06355636B1
To the above 600 mg of 4,6-dichloro-[1.7]naphthyridine-3-carbonitrile in 20 mL of absolute ethanol was added 1 mL of 3-bromoaniline. After refluxing the reaction under an inert atmosphere for 4 hours, the reaction mixture was cooled to ambient temperature, diluted with ether, and the product was filtered and washed with ether. Drying in vacuo yielded 790 mg of 4-(3-bromo-phenylamino)-6-chloro-[1.7]naphthyridine-3-carbonitrile as an off-white solid: mp=220-223° C.; mass spectrum (m/e): M+H 359.0, 361.1.

reactant | 4,6-dichloro-[1.7]naphthyridine-3-carbonitrile | above 600 mg | ClC1=C(C=NC2=CN=C(C=C12)Cl)C#N | C9H3Cl2N3
reactant | 3-bromoaniline | 1 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4-(3-bromo-phenylamino)-6-chloro-[1.7]naphthyridine-3-carbonitrile | 790 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)Cl)C#N | C15H8BrClN4
